US06617330B2
2-Amino-5-chloro-N,N′-dipropylbenzamidine
27.4 g (0.097 mol) of 5-chloro-2-nitro-N,N′-dipropylbenzamidine are dissolved in 200 ml of THF and are hydrogenated in the presence of 15 g Ra—Ni/EtOH at room temperature for 5 hours (take up of hydrogen: 94%). Then the catalyst is filtered off and the solvent removed in a water jet vacuum. The residue is purified by column chromatography on silica gel (eluant: hexane/THF 1:1, then THF). Yield: 11.9 g of 2-amino-5-chloro-N,N′-dipropylbenzamidine in the form of a brown oil (1H-NMR (CDCl3);.ppm/multiplicity/number of H's): 0.91/m/6H; 1.56/m/4H; 3.10/m (broad)/4H, 3.75/s(broad)/2H; 6.63/d/1H; 7.02/d/1H; 7.10/dd/1H.

reactant | 5-chloro-2-nitro-N,N′-dipropylbenzamidine | 0.097 mol, 27.4 g | ClC=1C=CC(=C(C(=NCCC)NCCC)C1)[N+](=O)[O-] | C13H18ClN3O2
reactant | hydrogen | [H][H] | H2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | Ra—Ni EtOH | 15 g | [Ni].CCO
product | 2-Amino-5-chloro-N,N′-dipropylbenzamidine | NC1=C(C(=NCCC)NCCC)C=C(C=C1)Cl | C13H20ClN3
